US08202868B2
N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-nitro-benzamide
0.91 g of 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]-butylamine (2.64 mmol) and 0.53 g of triethylamine (5.28 mmol) were dissolved in 20 ml of tetrahydrofuran. 0.49 g of 4-nitro-benzoyl-chloride (2.64 mmol) were added at 0-5° C. After stirring for 2 h at 0-5° C., the solvent was evaporated and the residue partitioned between ethyl acetate and water. The aqueous phase was re-extracted with ethyl acetate, and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using ethyl acetate and ethyl acetate-methanol (2%). Fractions containing the product were combined. The solvent was evaporated to yield 0.51 g of the title compound as a solid.

reactant | 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]-butylamine | 2.64 mmol, 0.91 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | triethylamine | 5.28 mmol, 0.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitro-benzoyl-chloride | 2.64 mmol, 0.49 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-nitro-benzamide | 0.51 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C1CCC1 | C27H38N6O3
